US06235787B1
(E)-2′-(2,6-Dichlorobenzyl)-2(R)-[1(S)-(hydroxycarbamoyl)-4-phenyl-3-butenyl]-2′-(methanesulphonyl)-4-methylvalerohydrazide
The starting material was prepared in an analogous manner to that described in Example 15, part (iii), starting from (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-(methanesulphonyl)-4-methylvalerohydrazide and 2,6-dichlorobenzyl bromide.

reactant | (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-(methanesulphonyl)-4-methylvalerohydrazide | O1C(CCCC1)ONC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NNS(=O)(=O)C)CC(C)C | C23H35N3O6S
reactant | 2,6-dichlorobenzyl bromide | ClC1=C(CBr)C(=CC=C1)Cl | C7H5BrCl2
product | (E)-2′-(2,6-Dichlorobenzyl)-2(R)-[1(S)-(hydroxycarbamoyl)-4-phenyl-3-butenyl]-2′-(methanesulphonyl)-4-methylvalerohydrazide | ClC1=C(CN(NC([C@H](CC(C)C)[C@H](C\C=C\C2=CC=CC=C2)C(NO)=O)=O)S(=O)(=O)C)C(=CC=C1)Cl | C25H31Cl2N3O5S
